US06762321B2
Three hundred milligrams (300 mg) of N-[2-(3,4-dimethoxyphenyl)ethyl]-3-(2-propynyloxy)-2-(5,6,7,8-tetrahydronaphthalen-2-yl)acrylamide (0.716 mmol), 20 mg (0.0766 mmol) of tetrabutylammonium fluoride, 100 mg (0.716 mmol) of potassium carbonate and 2 ml of carbon tetrachloride were mixed and stirred at room temperature. Water was added to the reaction mixture, which was followed by extracted with ethyl acetate, washed with 5% hydrochrolic acid and saturated brine subsequently, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography (eluent, hexane:ethyl acetate=1:1) to give 140 mg of 3-(3-chloro-2-propynyloxy)-N-[2-(3,4-dimethoxyphenyl)ethyl]-2-(5,6,7,8-tetrahydronaphthalen-2-yl)acrylamide (the present compound 1223).

reactant | N-[2-(3,4-dimethoxyphenyl)ethyl]-3-(2-propynyloxy)-2-(5,6,7,8-tetrahydronaphthalen-2-yl)acrylamide | 0.716 mmol, Three hundred milligrams | COC=1C=C(C=CC1OC)CCNC(C(=COCC#C)C1=CC=2CCCCC2C=C1)=O | C26H29NO4
reactant | tetrabutylammonium fluoride | 0.0766 mmol, 20 mg | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | potassium carbonate | 0.716 mmol, 100 mg | C([O-])([O-])=O.[K+].[K+]
reactant | carbon tetrachloride | 2 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | Water | O | H2O
product | 3-(3-chloro-2-propynyloxy)-N-[2-(3,4-dimethoxyphenyl)ethyl]-2-(5,6,7,8-tetrahydronaphthalen-2-yl)acrylamide | 140 mg | ClC#CCOC=C(C(=O)NCCC1=CC(=C(C=C1)OC)OC)C1=CC=2CCCCC2C=C1 | C26H28ClNO4
